US07939524B2
d) (1R,2S,7R,8S)-5-(1,1-Dioxo-1,2-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one
The crude (1S,2R,3S,4R)-3-[[2-(1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-(4-fluoro-benzyl)-amino]-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester was dissolved in ethanol (8 mL), and a 21 wt. % solution of sodium ethoxide in ethanol (1.6 mL, 4.2 mmol) was added into the above solution. The mixture was stirred at 60° C. for 4 h and allowed to cool down to 25° C. The mixture was poured into 0.5 M aqueous hydrochloric acid solution (100 mL). The product started to precipitate and was collected by vacuum filtration. The precipitate was purified by flash column chromatography (Teledyne Isco RediSep column; 100% ethyl acetate) to afford the desired product, (1R,2S,7R,8S)-5-(1,1-dioxo-1,2-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one (0.242 g, 0.517 mmol, 62.1% over two steps), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.16-1.22 (2H, m), 1.40-1.60 (4H, m), 2.51 (1H, bs), 2.64 (1H, d, J=2.1 Hz), 3.03 (1H, d, J=8.0 Hz), 3.54 (1H, d, J=9.3 Hz), 4.42 (1H, d, J=15.6 Hz), 4.97 (1H, d, J=15.7 Hz), 7.15 (2H, t, J=8.8 Hz), 7.33 (2H, dd, J1=8.0 Hz, J2=5.9 Hz), 7.45-7.53 (2H, m), 7.67-7.71 (1H, m), 7.85 (1H, d, J=7.9 Hz). LC-MS (ESI) calcd for C24H22FN3O4S 467.13, found 468.2 [M+H+]. Anal. calcd for C24H22FN3O4S: C, 61.66; H, 4.74; N, 8.99; found C, 61.96; H, 4.88; N, 8.99.

reactant | (1S,2R,3S,4R)-3-[[2-(1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-(4-fluoro-benzyl)-amino]-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1[C@H]2CC[C@@H]([C@@H]1N(CC1=CC=C(C=C1)F)C(CC1=NS(C3=C(N1)C=CC=C3)(=O)=O)=O)C2 | C26H28FN3O5S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 0.5 M, 100 mL | Cl | ClH
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethanol | 4.2 mmol, 1.6 mL | C(C)O | C2H6O
product | (1R,2S,7R,8S)-5-(1,1-dioxo-1,2-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one | 0.517 mmol, 0.242 g, 62.1% | O=S1(NC(=NC2=C1C=CC=C2)C=2C(N([C@H]1[C@@H]3CC[C@H]([C@H]1C2O)C3)CC3=CC=C(C=C3)F)=O)=O | C24H22FN3O4S
